US05556861
3-Ethoxycarbonyl-7,8-difluoro-4-oxo-1-tert-butyl-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions described in Example 10, but starting with 4 g of ethyl 2-(2-chloro-6,7-difluoro-3-quinolylcarbonyl)-3(dimethylamino)acrylate and 0.87 g of tert-butylamine. 2.7 g of 3-ethoxycarbonyl-7,8-difluoro-4-oxo-1-tert-butyl-1,4dihydrobenzo[b][1,8]naphthyridine are obtained in the form of a yellow solid, melting point 206° C., which is used without further purification for the subsequent steps.

reactant | ethyl 2-(2-chloro-6,7-difluoro-3-quinolylcarbonyl)-3(dimethylamino)acrylate | 4 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F | C17H15ClF2N2O3
reactant | tert-butylamine | 0.87 g | C(C)(C)(C)N | C4H11N
product | 3-ethoxycarbonyl-7,8-difluoro-4-oxo-1-tert-butyl-1,4dihydrobenzo[b][1,8]naphthyridine | 2.7 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)C(C)(C)C)C=C(C(=C3)F)F)=O | C19H18F2N2O3
